US04329347
5-(4-Phenylsulfonyl-butoxy)-3,4-dihydro-carbostyril
Prepared analogous to Example 4 from 5-hydroxy-3,4-dihydro-carbostyril and 4-phenylsulfonyl-butyl bromide.

reactant | 5-hydroxy-3,4-dihydro-carbostyril | OC1=C2CCC(NC2=CC=C1)=O | C9H9NO2
reactant | 4-phenylsulfonyl-butyl bromide | C1(=CC=CC=C1)S(=O)(=O)CCCCBr | C10H13BrO2S
product | 5-(4-Phenylsulfonyl-butoxy)-3,4-dihydro-carbostyril | C1(=CC=CC=C1)S(=O)(=O)CCCCOC1=C2CCC(NC2=CC=C1)=O | C19H21NO4S
